US09102673B2
Step 2: 2-(4-Tert-butoxyphenoxy)ethanol
[2-(4-Tert-butoxyphenoxy)ethoxy](tert-butyl)dimethylsilane (1.7 g, 5.24 mmole) was taken up in 2-MeTHF (10 mL). To this was added 1M TBAF (16 mL, 16.00 mmole) in THF then the mixture was heated to 60° C. After 4 hr the mixture was cooled to RT and concentrated. The residue was taken up in H2O and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (Biotage-SNAP-50 g SiO2, 30% EtOAc/hexanes) gave the title compound (1.02 g, 93%) as a clear oil. 1H NMR (400 MHz, CDCl3): δ 6.94-6.90 (m, 2 H); 6.83-6.79 (m, 2 H); 4.07-4.02 (m, 2 H); 3.97-3.91 (m, 2 H); 1.30 (s, 9 H).

reactant | [2-(4-Tert-butoxyphenoxy)ethoxy](tert-butyl)dimethylsilane | 5.24 mmole, 1.7 g | C(C)(C)(C)OC1=CC=C(OCCO[Si](C)(C)C(C)(C)C)C=C1 | C18H32O3Si
reactant | TBAF | 16.00 mmole, 1M, 16 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | 2-MeTHF | 10 mL | CC1CCCO1 | C5H10O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Tert-butoxyphenoxy)ethanol | 1.02 g, 93% | C(C)(C)(C)OC1=CC=C(OCCO)C=C1 | C12H18O3
